US04147799
5 g. of 1-(3,4-methylenedioxyphenyl)-2-isopropylaminoethanol hydrochloride are dissolved in 20 mol. of water, and the resulting aqueous solution is made basic with 1N caustic soda. The liberated oil is extracted with ether. The ether layer is separated and dried and the ether is removed by distillation. Upon recrystallization of the crystalline residue from petroleum ether, 1-(3,4-methylenedioxyphenyl)-2-isopropylaminoethanol is obtained as white needle crystals having a melting point of 117°-118° C.

reactant | 1-(3,4-methylenedioxyphenyl)-2-isopropylaminoethanol hydrochloride | Cl.C1OC=2C=C(C=CC2O1)C(CNC(C)C)O
reactant | caustic soda | 1N | [OH-].[Na+]
solvent | water | O | H2O
product | 1-(3,4-methylenedioxyphenyl)-2-isopropylaminoethanol | C1OC=2C=C(C=CC2O1)C(CNC(C)C)O | C12H17NO3
